US07105310B1
The hygroscopic white solid 2-adamantylamine was prepared by dissolving 2-adamantylamine•HCl (Aldrich) in H2O/NaOH, extracting with methylene chloride, drying with MgSO4, filtering, and rotary evaporating. This reagent (500 mg) was dissolved in methylene chloride (20 mL), put on ice, and acetic anhydride (˜5 equiv.) added dropwise. The reaction was left to run overnight, and worked up by addition of sodium bicarbonate solution, and extraction with MeCl2. The solution was washed twice with H2O and dried with MgSO4. The white crystalline product looked clean by TLC (50% CH2Cl2/EtOAc, imaged with paraanisaldehyde, rf˜0.25) and NMR without further purification. 1H NMR (CDCl3): δ 1.62–1.90 (m's, 15H), 4.05 (br's, —CH3), 5.82 (br's, N—H, amide).

reactant | 2-adamantylamine•HCl | C12C(C3CC(CC(C1)C3)C2)N.Cl
reactant | acetic anhydride | ˜5 equiv. | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | MeCl2 | C(Cl)Cl | CH2Cl2
solvent | H2O NaOH | O.[OH-].[Na+]
product | 2-adamantylamine | C12C(C3CC(CC(C1)C3)C2)N | C10H17N
